US05578607
A mixture of 6-amino-4,5,8trimethylquinoline (0.37 g), di-2-pyridyl thionocarbonate (0.494 g) (DPT) (Aldrich), dimethylaminopyridine (0.052 g) and methylene chloride (4 mL) is stirred at room temperature for 2 hours. An additional 100 mg of DPT is added, and stirring is continued for one hour. Another 100 mg portion of DPT is added, and the reaction is stirred at room temperature for one more hour. The mixture is concentrated by evaporation and purified by chromatography through a short column consisting of layers of sand/flash silica gel/sand, using 20% ethyl acetate in hexane as the eluting solvent, providing 6-isothiocyanato-4,5,8-trimethylquinoline.

reactant | 6-amino-4,5,8trimethylquinoline | 0.37 g | NC=1C(=C2C(=CC=NC2=C(C1)C)C)C | C12H14N2
reactant | di-2-pyridyl thionocarbonate | 0.494 g | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
reactant | dimethylaminopyridine | 0.052 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 6-isothiocyanato-4,5,8-trimethylquinoline | N(=C=S)C=1C(=C2C(=CC=NC2=C(C1)C)C)C | C13H12N2S
